US09079838B2
Preparation of 1,3-bis(([1,1′-biphenyl]-2-yloxy)-methyl)benzene
A 100 mL 3-neck flask was equipped with a magnetic stirrer, a reflux condenser, a nitrogen blanket, and a heating mantle with a temperature controller and a thermocouple. The flask was charged with o-phenylphenol (6.83 grams, 0.04 moles), with KOH (2.63 grams, 0.04 moles), and with 25 mL of DMSO. The mixture was stirred at about 35° C. for about ¾ hour, then a solution of α,α′-dichloro-m-xylene (3.52 grams, 0.02 moles) in 5 mL of DMSO was added to the dark solution over about 25 minutes. After the addition, the reaction mixture was heated at 50° C. for about 3 hours, and then it was poured into about 400 mL of water. A sticky white solid separated. The mixture was slurried with about 75 mL of diethyl ether; the solids dissolved. The mixture was transferred to a separatory funnel, and the layers were separated. The aqueous layer was extracted with 2×75 mL of diethyl ether. The ether layers were combined and were washed with 1×75 mL of saturated aqueous sodium chloride solution, and then they were dried over anhydrous magnesium sulfate. After filtration, the ether was removed by rotary evaporation at a bath temperature of about 60° C./P=3.4 kPa to give 8.42 grams of clear, viscous brown oil. Yield=95%. Structure was confirmed by IR, GC/MS, and 1H- and 13C-NMR analyses.

reactant | o-phenylphenol | 0.04 moles, 6.83 grams | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
reactant | KOH | 0.04 moles, 2.63 grams | [OH-].[K+]
reactant | α,α′-dichloro-m-xylene | 0.02 moles, 3.52 grams | ClCC1=CC(=CC=C1)CCl | C8H8Cl2
reactant | water | about 400 mL | O | H2O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
product | 1,3-bis(([1,1′-biphenyl]-2-yloxy)-methyl)benzene | Yield=95% | C1(=C(C=CC=C1)OCC1=CC(=CC=C1)COC1=C(C=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C32H26O2
